US07786129B2
3-{4-[4-(5-Chloro-2-methoxyphenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(5-chloro-2-methoxyphenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(5-chloro-2-methoxyphenyl)-piperazine | ClC=1C=CC(=C(C1)N1CCNCC1)OC | C11H15ClN2O
product | 3-{4-[4-(5-Chloro-2-methoxyphenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=CC(=C(C1)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC)OC | InChI=1S/C25H32ClN3O2.ClH/c1-3-25(20-8-4-5-9-21(20)27-24(25)30)12-6-7-13-28-14-16-29(17-15-28)22-18-19(26)10-11-23(22)31-2;/h4-5,8-11,18H,3,6-7,12-17H2,1-2H3,(H,27,30);1H
